US07655643B2
Benzyl 2-(benzyloxy)-N-(tert-butoxycarbonyl)-3-fluoro-5-iodo-L-phenylalaninate
12.5 g (26.1 mmol) of benzyl 2-(benzyloxy)-N-(tert-butoxycarbonyl)-3-fluoro-L-phenylalaninate are introduced into 200 ml of dichloromethane, and 8.76 g (104 mmol) of sodium bicarbonate are added. 8.46 g (52.4 mmol) of iodine monochloride in 10 ml of dichloromethane are slowly added dropwise. After 72 h, 300 ml of a 5% sodium bisulfite solution are added. The phases are separated and the organic phase is extracted with water. The organic phase is concentrated and the residue is purified on silica gel (cyclohexane:ethyl acetate 6:1).

reactant | benzyl 2-(benzyloxy)-N-(tert-butoxycarbonyl)-3-fluoro-L-phenylalaninate | 26.1 mmol, 12.5 g | C(C1=CC=CC=C1)OC1=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2)C=CC=C1F | C28H30FNO5
reactant | sodium bicarbonate | 104 mmol, 8.76 g | C([O-])(O)=O.[Na+]
reactant | iodine monochloride | 52.4 mmol, 8.46 g | ICl | ClI
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Benzyl 2-(benzyloxy)-N-(tert-butoxycarbonyl)-3-fluoro-5-iodo-L-phenylalaninate | C(C1=CC=CC=C1)OC1=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2)C=C(C=C1F)I | C28H29FINO5
